US07524847B2
3-Benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one
Water (1.5 mL), 4-methylmorpholin-N-oxide (1.06 g), 2% aqueous osmic acid solution (3 mL), and a solution of sodium periodate (1.94 g) in water (6 mL) were added to a solution of 1-allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one (0.75 g) in 1,4-dioxane (15 mL). This was then heated at 60° C. for 18 hours. Water (200 mL) was added, and this was extracted with ethyl acetate (100 mL). The obtained organic layer was washed twice with 50 mL of water and then once with 50 mL of saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and the fraction eluted by ethyl acetate-hexane (1:1) gave the title compound (0.38 g).

reactant | 4-methylmorpholin-N-oxide | 1.06 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 1.94 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1-allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.75 g | C(C=C)N1C(N(C=2C(=NC=CC21)Cl)CC2=CC=CC=C2)=O | C16H14ClN3O
solvent | water | 6 mL | O | H2O
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | osmic acid | 3 mL | O=[Os](=O)(=O)=O
solvent | Water | 200 mL | O | H2O
solvent | Water | 1.5 mL | O | H2O
product | 3-Benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.38 g | C(C1=CC=CC=C1)N1C(NC2=C1C(=NC=C2)Cl)=O | C13H10ClN3O
